* Diode Rectifier - Strong Nonlinearity Test
* This circuit tests PSS with strong nonlinearity from diode
V1 1 0 SIN(0 5 1e6)  ; 1MHz, 5V amplitude
D1 1 2 D1N4001
R1 2 0 1k
C1 2 0 10n
.MODEL D1N4001 D (IS=1e-12 N=1.5 RS=0.1)
.PSS 1u
.PRINT PSS V(2) I(D1)
.END


