* LC Oscillator for Autonomous PSS Test
* Simple LC tank circuit that oscillates
L1 1 0 1u
C1 1 0 1n
R1 1 0 1k  ; Small damping resistor
.PSS 1u AUTONOMOUS REFNODE=1
.PRINT PSS V(1) I(L1)
.END

